US05102877
To a solution of 4-nitrobenzyl 2-[(3S,4R)-4-{2-(1-benzyloxycarbonyl-1,2,3,6-tetrahydropyridin-4-yl)-2-oxoethyl}-3-{(1R)-1-trimethylsilyloxyethyl}-2-oxoazetidin-1-yl]-2-oxoacetate (4.73 g) and triethyl phosphite (6.2 ml) in toluene (70 ml) was heated under reflux for 2 hours under nitrogen atmosphere. To this solution was added hydroquinone (800 mg), and the reflux was continued for additional 6 hours. The solvent was removed in vacuo to give a residue, which was chromatographed on silica gel (400 ml) eluting with a mixture of hexane and ethyl acetate (4:1 v/v) to give 4-nitrobenzyl (5R,6S)-3-(1-benzyloxycarbonyl-1,2,3,6-tetrahydropyridin-4-yl)-6-[(1R)-1-trimethylsilyloxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (3.77 g).

reactant | 4-nitrobenzyl 2-[(3S,4R)-4-{2-(1-benzyloxycarbonyl-1,2,3,6-tetrahydropyridin-4-yl)-2-oxoethyl}-3-{(1R)-1-trimethylsilyloxyethyl}-2-oxoazetidin-1-yl]-2-oxoacetate | 4.73 g | C(C1=CC=CC=C1)OC(=O)N1CCC(=CC1)C(C[C@@H]1[C@H](C(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)=O)[C@@H](C)O[Si](C)(C)C)=O | C32H37N3O10Si
reactant | triethyl phosphite | 6.2 ml | P(OCC)(OCC)OCC | C6H15O3P
reactant | hydroquinone | 800 mg | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 4-nitrobenzyl (5R,6S)-3-(1-benzyloxycarbonyl-1,2,3,6-tetrahydropyridin-4-yl)-6-[(1R)-1-trimethylsilyloxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 3.77 g | C(C1=CC=CC=C1)OC(=O)N1CCC(=CC1)C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O[Si](C)(C)C)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C32H37N3O8Si
